US09079866B2
4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-carboxamide
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 2-bromobenzamide. MS (ESI): mass calcd. for C17H13FN4O, 308.11; m/z found, 309.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.35 (s, 1H), 8.01 (s, 1H), 7.86 (m, 1H), 7.75 (s, 1H), 7.55-7.26 (m, 7H), 6.70 (s, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-bromobenzamide | BrC1=C(C(=O)N)C=CC=C1 | C7H6BrNO
product | 4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-carboxamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)C(=O)N)F | C17H13FN4O
